US09290454B2
Lithium hydroxide monohydrate (4.0 equiv.) in water (0.66 M) was added to a stirred mixture of (R)-methyl 5-(2-benzyl-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (1 eq) in MeOH/THF (v/v=1/4) and the mixture was stirred at room temperature. After 2 h, the mixture was neutralized with 1 N HCl, extracted with EtOAc, dried over Na2SO4, filtered and evaporated to dryness. To the residue was added Et2O and sonicated, upon which some solid precipitated. The solids were filtered, triturated with Et2O and dried to yield (R)-5-(2-benzyl-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid. LCMS [M+H]+=501. 1H NMR (CDCl3, 500 MHz) δ ppm: 8.44 (d, 1H, J=8.5 Hz), 7.92 (br s, 1H), 7.71 (d, 1H, J=8.0 Hz), 7.40 (dd, 2H, J=5.0 Hz, J=8.5 Hz), 7.32-7.23 (m, 3H), 7.12 (d, 2H, J=7.5 Hz), 7.06 (t, 2H, J=9.0 Hz), 6.42 (s, 1H), 5.43 (br s, 2H), 5.39-5.35 (m, 1H), 2.63 (t, 2H, J=7.5 Hz), 2.37 (t, 2H, J=6.5 Hz), 1.70-1.64 (m, 4H), 1.63 (d, 3H, J=7.0 Hz).

reactant | Lithium hydroxide monohydrate | 4.0 equiv. | O.[OH-].[Li+]
reactant | (R)-methyl 5-(2-benzyl-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 1 eq | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC)C(N[C@H](C)C1=CC=C(C=C1)F)=O)=O | C31H31FN2O4
reactant | HCl | 1 N | Cl | ClH
solvent | water | 0.66 M | O | H2O
solvent | MeOH THF | CO.C1CCOC1
product | (R)-5-(2-benzyl-6-((1-(4-fluorophenyl)ethyl)carbamoyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)O)C(N[C@H](C)C1=CC=C(C=C1)F)=O)=O | C30H29FN2O4
